US05459260
To a solution of diisopropylamine (0.294 ml) in dry THF (5 ml) was added butyllithium (1.25 ml, 1.6M in hexane) dropwise at 0° C. and the mixture was stirred for 10 minutes. This solution was cooled to -78° C. and a solution of (3S,4S)-1-(tert-butyldimethylsilyl)-3-[(R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-[(2RS)-3-oxotetrahydropyran-2-yl)azetidin-2-one (441 mg) in dry THF (2 ml) was added dropwise. The mixture was stirred for 30 minutes, after which trimethylchlorosilane (0.267 ml) was added. This mixture was stirred at -20° C. for 10 minutes. The reaction mixture was then poured in a saturated aqueous solution of ammonium chloride (20 ml) and extracted with ether (20 ml). The organic layer was washed successively with water (20 ml), 2% HCl (20 ml), saturated aqueous sodium hydrogen carbonate (20 ml) and saturated aqueous sodium chloride (20 ml). The extract was then dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. Finally, the residue was purified by silica gel column chromatography (230-400 mesh, 26 g; ethyl acetate-hexane=1:15) to give (3S,4S)-1-(tert-butyldimethylsilyl)-3-[(R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-[(2R)-3-trimethylsilyloxy-5,6-dihydropyran-2-yl]azetidin-2-one (228 mg) as a colorless oil.

reactant | diisopropylamine | 0.294 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 1.6M, 1.25 ml | C(CCC)[Li]
reactant | (3S,4S)-1-(tert-butyldimethylsilyl)-3-[(R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-[(2RS)-3-oxotetrahydropyran-2-yl)azetidin-2-one | 441 mg | [Si](C)(C)(C(C)(C)C)N1C([C@@H]([C@H]1C1OCCCC1=O)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O | C22H43NO4Si2
reactant | trimethylchlorosilane | 0.267 ml | C[Si](Cl)(C)C | C3H9ClSi
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | (3S,4S)-1-(tert-butyldimethylsilyl)-3-[(R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-[(2R)-3-trimethylsilyloxy-5,6-dihydropyran-2-yl]azetidin-2-one | 228 mg | [Si](C)(C)(C(C)(C)C)N1C([C@@H]([C@H]1[C@H]1OCCC=C1O[Si](C)(C)C)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O | C25H51NO4Si3
